US06743766B1
(Comparison) 1600 kg of water glass with an SiO2/Na2O ratio of 2.06 and an active substance content of 45.5% were admixed with 36.8 kg of sodium hydroxide solution (48% strength) and spray-dried in a spray tower from Kestner to give an amorphous sodium silicate having an active substance content of 83%. 15 kg of the amorphous sodium silicate are heat-treated at 720° C. for 90 min in a muffle furnace (Nabertherm, model W1000/H). A second batch is treated identically. The chilled materials (about 24 kg) are pulverized using a jaw crusher and a disk mill.

reactant | water glass | 1600 kg | [O-][Si](=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 36.8 kg | [OH-].[Na+]
product | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
